US05990133
3-Bromo-5-fluorobenzotrifluoride was lithiated with n-butyllithium and treated with tri-isopropylborate to give 3-fluoro-5-trifluoromethylphenyl boronic acid. This was coupled to 5-bromopyrimidine, using Suzuki methodology to afford 3-fluoro-5-(pyrimidin-5-yl)benzotrifluoride. Hydrolysis with conc. sulphuric acid and chlorosulphonic acid afforded 3-fluoro-5-(pyrimidin-5-yl)benzoic acid. This was converted to the methyl ester by treatment with methanol and conc. sulphuric acid, and to the hydrazide by treatment with hydrazine hydrate. Diazotisation and treatment with potassium carbonate afforded the title compound.

reactant | 3-Bromo-5-fluorobenzotrifluoride | BrC=1C=C(C=C(C1)F)C(F)(F)F | C7H3BrF4
reactant | n-butyllithium | C(CCC)[Li]
reactant | tri-isopropylborate | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
product | 3-fluoro-5-trifluoromethylphenyl boronic acid | FC=1C=C(C=C(C1)C(F)(F)F)B(O)O | C7H5BF4O2
